US07528134B2
N-(3-nitrophenyl)-2-(4-pyridin-2-ylpiperazin-1-yl)acetamide
1-(2-pyridinyl)piperazine (0.65 mL, 4.3 mmol, Aldrich) and N,N-diisopropylamine (5.0 mL) in toluene (20 mL) were treated with 2-chloro-N-(3-nitrophenyl)acetamide (750 mg, 3.49 mmol, Lancaster) and heated to 60° C. for 18 hours. The mixture was allowed to cool to room temperature, transferred to a separatory funnel and washed with saturated aqueous sodium bicarbonate. The organic phase was dried (sodium sulfate), filtered, and the filtrate concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (elution with 25% ethyl acetate:hexanes) to provide 900 mg (76% yield) of the title compound as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ 2.62 (m, 4H), 3.24 (s, 2H), 3.56 (m, 4H), 6.63 (ddd, 1H, J=7.1, 4.7, 0.7 Hz), 6.83 (d, 1H, J=8.8 Hz), 7.52 (ddd, 1H, J=8.5, 7.1, 2.0), 7.61 (dd, 1H, J=8.5, 8.5 Hz), 7.92 (ddd, 1H, J=8.1, 2.4, 1.0 Hz), 8.04 (ddd, 1H, J=8.5, 2.4, 1.0 Hz), 8.11 (ddd, 1H, J=4.8, 1.7, 0.7 Hz), 8.70 (dd, 1H, J=2.0, 2.0 Hz), 10.27 (br s, 1H); MS (DCI/NH3) m/e 342 (M+H)+; Anal. calcd for C17H19N5O3: C, 59.81; H, 5.61; N, 20.52. Found: C, 59.61; H, 5.55; N, 20.23.

reactant | 1-(2-pyridinyl)piperazine | 4.3 mmol, 0.65 mL | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | N,N-diisopropylamine | 5.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-chloro-N-(3-nitrophenyl)acetamide | 3.49 mmol, 750 mg | ClCC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C8H7ClN2O3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-nitrophenyl)-2-(4-pyridin-2-ylpiperazin-1-yl)acetamide | 900 mg, 76% yield | [N+](=O)([O-])C=1C=C(C=CC1)NC(CN1CCN(CC1)C1=NC=CC=C1)=O | C17H19N5O3
